US06884801B1
2-Amino-N-butylbenzamide (prepared from butylamine and isatoic anhydride, using the methods described in Example 17) and CMI were reacted using conditions described in the general procedure for CMI coupling to give N-butyl-2-[(4,5-dihydro-1H-imidazol-2-ylmethyl)amino]benzamide, isolated as the hydrochloride salt.

reactant | 2-Amino-N-butylbenzamide | NC1=C(C(=O)NCCCC)C=CC=C1 | C11H16N2O
reactant | butylamine | C(CCC)N | C4H11N
reactant | isatoic anhydride | C1=2C(=O)OC(NC1=CC=CC2)=O | C8H5NO3
product | N-butyl-2-[(4,5-dihydro-1H-imidazol-2-ylmethyl)amino]benzamide | C(CCC)NC(C1=C(C=CC=C1)NCC=1NCCN1)=O | C15H22N4O
